US04929549
5-Methoxycarbonylthieno[2,3-b]thiophene-2-sulfonamide (0.55 g., 2 mmoles) and 3-(methoxyethoxy)propylamine (0.80 g., 6 mmoles) were refluxed in methanol (5 mL) for 96 hours. The solution was cooled and evaporated in vacuo to remove most of the methanol. Ether was added and the resulting product was recrystallized from 1,2-dichloroethane to give 0.49 g of 5-(N-methoxyethoxypropylcarbamoyl)thieno[2,3-b]thiophene-2-sulfonamide, m.p. 154°-155° C.

reactant | 5-Methoxycarbonylthieno[2,3-b]thiophene-2-sulfonamide | 2 mmoles, 0.55 g | COC(=O)C1=CC2=C(S1)SC(=C2)S(=O)(=O)N | C8H7NO4S3
reactant | 3-(methoxyethoxy)propylamine | 6 mmoles, 0.80 g | COCCOCCCN | C6H15NO2
solvent | methanol | 5 mL | CO | CH4O
product | 5-(N-methoxyethoxypropylcarbamoyl)thieno[2,3-b]thiophene-2-sulfonamide | 0.49 g | COCCOCCCNC(=O)C1=CC2=C(S1)SC(=C2)S(=O)(=O)N | C13H18N2O5S3
